2111-09-19 06:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: back/jaw pain, nausea s/p cardiac cath with stent to
   LMCA
   24 Hour Events:
   Began coughing while in CCU and sat upright, was found to be bleeding
   from cath site and became nauseous and extremely agitated. Pressure
   held for 20 minutes. Given Zofran followed by Ativan 0.5 which did not
   calm pt. Pt continued to be restless, cough and bear down and cath site
   began bleeding again. Pressure held for 25 minutes, US negative for
   hematoma, Ativan 0.5 given. Pt began sundowning and Morphine 1mg IV was
   given. Increased bruising and induration developed along inguinal
   ligament and in suprapubic area. Hct dropped to 22.3 from 31.6 two days
   prior. Haldol 1mg IV given. 1UPRBC given and non contrast CT showed
   large pelvic hyperedense collection concerning for hematoma, measuring
   10 x 7 cm. Fat stranding concerning for bleeding in the right thigh.
   Not able to comment on active extavazation. Hematoma compressing R
   ureter with R kidney hydronephrosis and possible rupture of renal
   pelvis. Hydralazine 10 IV given for BP.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Codeine
   Nausea/Vomiting
   Scopolamine Hydrobromide
   AMS;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2111-9-19**] 12:15 AM
   Haloperidol (Haldol) - [**2111-9-19**] 03:25 AM
   Lorazepam (Ativan) - [**2111-9-19**] 03:50 AM
   Hydralazine - [**2111-9-19**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-9-19**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.6
C (96.1
   HR: 71 (67 - 84) bpm
   BP: 182/78(97) {116/47(66) - 207/189(192)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 97% RA
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
           Total In:
                                                                    898 mL
                                                                    877 mL
   PO:
                                                                    150 mL
           TF:
   IVF:
                                                                    748 mL
                                                                    317 mL
   Blood products:
   560 mL
   Total out:
                                                                    905 mL
                                                                    205 mL
   Urine:
                                                                    555 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -7 mL
                                                                    672 mL
   Respiratory support
   O2 Delivery Device: room air
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress, Anxious. AAOx1
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic. Oropharynx clear. Bilateral
   carotid bruits.
   Cardiovascular: (S1: Normal), (S2: Normal), 2/6 systolic ejection
   murmur heard best at LUSB. Does not radiate to carotids/clavicle. Not
   heard at axilla.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : ), anterior exam only
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No Cyanosis/Clubbing. Ecchymosis over R inguinal
   ligament and suprapubic area with areas of induration. No oozing, no
   bruits.
   Neurologic: Responds to: commands.
   Labs / Radiology
   211 K/uL
   8.4 g/dL
   212 mg/dL
   2.0 mg/dL
   26 mEq/L
   5.3 mEq/L
   38 mg/dL
   98 mEq/L
   134 mEq/L
   25.4 %
   10.6 K/uL
        [image002.jpg]
                             [**2111-9-18**]  11:34 PM
                             [**2111-9-19**]  04:53 AM
   WBC
   10.6
   Hct
   22.3
   25.4
   Plt
   211
   Cr
   2.0
   TropT
   0.02
   Glucose
   212
   Other labs: CK / CKMB / Troponin-T:88//0.02, Differential-Neuts:89.6 %,
   Lymph:6.9 %, Mono:3.2 %, Eos:0.1 %, Ca++:8.5 mg/dL, Mg++:1.6 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
   88yo F hx HTN, CKI, hypothyroidism, Sjogrens presented s/p cardiac cath
   with drug eluting stent to left main with extension to LAD.
   .
   # CORONARIES: Anginal equivalent is intrascapular back pain with
   nausea. Precath ECG showed ST elevations in V1-2 and AVR with
   depressions in 2,3,AVL. Left main disease seen on cath and stent placed
   to LMCA extending to LAD. Post-cath ECG essentially unchaged. Post-cath
   Tn 0.02 CK 88.
   - Aspirin 325 po qd
   - Plavix 75 po qd
   - Start Atorvastatin 80 po qd
   .
   # HEMATOMA: Developed as pt began sundowning and became very
   anxious/restless at around 8pm. Ultrasound was negative for hematoma,
   but induration and brusing along the inguinal ligament and suprapubic
   area developed afterwards. CT abd/pelvis showed 10x7cm pelvic fluid
   collection. Hct dropped from 31 two days PTA to 23. 2UPRBC given
 will
   check post transfusion H/H. Hematoma also possibly compressing R ureter
   causing hydronephrosis and possible calyceal rupture.
   - Contact vascular re: coiling procedure for involved vessels or
   evacuation
   - Consult urology re: possible calyceal rupture
   - Recheck H/H q6 to keep above [**8-24**]
   .
   # DELIRIUM: History of sundowning on previous hospital admissions.
   Given benzos last night and mental status deteriorated.  Pulled out
   some IVs and foley catheter. Will continue treating underlying
   conditions. Would stay away from benzos and use Haldol or Seroquel /
   Trazodone qpm. Use restraints as needed.
   .
   # HYPERTENSION: On Atenolol at home. Hydralazine 10 IV x1 last night.
   - On Amlodipine 5 po qd
   - On Carvedilol 6.25 po bid
   .
   # PUMP: No previous caths or echos. No history or symptoms of previous
   HF. Pt appears euvolemic.
   - Obtain TTE today
   - On Carvedilol 6.25 po bid
   - Will hold off on ACE/[**Last Name (un) **] given rising creatinine as outpatient
   .
   # HYPOTHYROIDISM: TSH wnl two days PTA. Continue levothyroxine 88mcg po
   qd.
   .
   # CHRONIC KIDNEY INJURY: Baseline Cr 1yr ago was 1.3. Pt was advised to
   stop Olmesartan this past week over concerns of increased Cr to 2.0 two
   days PTA. Cr 1.7 on admission and 2.0 today with bump likely due to dye
   load. FENa 3.3 so prerenal component is unlikely.
   - Hold nephrotoxins
   .
   # ANEMIA: Baseline outpatient H/H [**10-31**], MCV 93.
   - follow up pre-admission iron studies, B12, folate
   - Will continue to monitor ongoing blood loss and keep H/H above [**8-24**]
   .
   FEN: heart healthy low sodium diet. Kayexelate for increased potassium.
   .
   ACCESS: PIV's
   .
   CODE: Presumed full
   .
   COMM: patient, daughter is involved in care.
   .
   DISPO: CCU for now
   11:18
   ------ Protected Section ------
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Name (NI) **], MD
   on:[**2111-9-21**] 13:32 ------

2111-09-21 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: s/p cath
   24 Hour Events:
   Given 1 unit PRBCs (4th unit total) with Lasix 80. Added ranitidine.
   Cr trend: 2.7 -> 3.1 -> 3.1
   Hct stable overnight.
   Mild confusion overnight with pt attempting to pull out her foley but
   was reoriented by staff. Pt aware that mentally she is not herself
   while in the hospital. Mild musculoskeletal back pain but not the same
   as her anginal equivalent. Mild lower abdominal pain and nausea. Denies
   SOB, HA, lightheadedness, vomiting, constipation/diarrhea, dysuria.
   History obtained from Patient
   Allergies:
   History obtained from PatientCodeine
   Nausea/Vomiting
   Scopolamine Hydrobromide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2111-9-20**] 10:30 AM
   Other medications:
   Changes to medical and family history:
   None.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   As above.
   Flowsheet Data as of  [**2111-9-21**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.7
   HR: 67 (63 - 79) bpm
   BP: 119/61(75) {93/43(60) - 137/71(80)} mmHg
   RR: 21 (15 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
                  Total In:
                                                                  2,776 mL
                  PO:
                                                                  1,080 mL
                  TF:
   IVF:
                                                                    946 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,692 mL
                                                                    450 mL
   Urine:
                                                                  1,692 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,084 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, 2/6 systolic ejection murmur @LUSB
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Wheezes : )
   Abdominal: soft non distended. TTP RLQ. Normoactive BS. Bruising over R
   inguinal ligament and suprapubic area, TTP, mildly indurated. Foley in
   place with hematuria.
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing.
   Neurologic: Attentive, Follows simple commands. AAO x3 today.
   Labs / Radiology
   116 K/uL
   11.1 g/dL
   90 mg/dL
   3.1 mg/dL
   27 mEq/L
   3.9 mEq/L
   56 mg/dL
   98 mEq/L
   134 mEq/L
   32.5 %
   8.8 K/uL
        [image002.jpg]
                             [**2111-9-18**]  11:34 PM
                             [**2111-9-19**]  04:53 AM
                             [**2111-9-19**]  12:34 PM
                             [**2111-9-19**]  06:07 PM
                             [**2111-9-20**]  05:49 AM
                             [**2111-9-20**]  06:42 PM
                             [**2111-9-21**]  04:58 AM
   WBC
   10.6
   10.7
   8.8
   Hct
   22.3
   25.4
   27.4
   24.2
   25.1
   32.6
   32.5
   Plt
   [**Telephone/Fax (3) 8984**]
   Cr
   2.0
   2.7
   3.1
   3.1
   3.1
   TropT
   0.02
   Glucose
   212
   122
   90
   Other labs: CK / CKMB / Troponin-T:88//0.02, Differential-Neuts:89.6 %,
   Lymph:6.9 %, Mono:3.2 %, Eos:0.1 %, Ca++:8.3 mg/dL, Mg++:3.0 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan
   88yo F hx HTN, CKI, hypothyroidism, Sjogrens presented s/p cardiac cath
   with drug eluting stent to left main with extension to LAD now with
   pelvic hematoma and renal caliceal rupture.
   .
   # CORONARIES: Anginal equivalent is intrascapular back pain with
   nausea. Precath ECG showed ST elevations in V1-2 and AVR with
   depressions in 2,3,AVL. Left main disease seen on cath and stent placed
   to LMCA extending to LAD. Post-cath ECG essentially unchaged. Post-cath
   Tn 0.02 CK 88.  No anginal equivalent since admission to CCU.
   - Aspirin 325 po qd
   - Plavix 75 po qd
   - Atorvastatin 80 po qd
   .
   # HEMATOMA: Developed as pt began sundowning and became very
   anxious/restless ~2hrs s/p cath. Ultrasound was negative for hematoma,
   but induration and brusing along the inguinal ligament and suprapubic
   area developed afterwards. CT abd/pelvis showed 10x7cm pelvic fluid
   collection. Hematoma also possibly compressing R ureter causing
   hydronephrosis and possible calyceal rupture. Hct dropped from 31 two
   days PTA to 23.
   - Vascular on board
 no intervention indicated
   - Urology on board
 recommended conservative management at this point
   - Hct stable from last night
 will recheck H/H q12 to keep above [**8-24**]
 4UPRBC so far
   .
   # DELIRIUM: History of sundowning on previous hospital admissions.
   Given benzos last night and mental status deteriorated.  Pulled out
   some IVs and foley catheter. Will continue treating underlying
   conditions. Would stay away from benzos and use Haldol or Seroquel /
   Trazodone qpm. Use restraints as needed.
   - no recurrence overnight
   .
   # HYPERTENSION: On Atenolol at home. Hydralazine 10 IV previously
   required, none overnight.
   - Amlodipine 5 po qd
   - Carvedilol 6.25 po bid
   .
   # PUMP: No previous caths or echos. No history or symptoms of previous
   HF. Pt appears euvolemic. Echo showed mild diastolic dysfunction but
   EF>55%. Will hold off on fluid boluses
 got Lasix 80 prior to PRBC
   yesterday.
   - On Carvedilol 6.25 po bid
   - Will hold off on ACE/[**Last Name (un) **] given rising creatinine as outpatient ->
   will start when renal function improves
   .
   # CHRONIC KIDNEY INJURY: Baseline Cr 1yr ago was 1.3. Pt was advised to
   stop Olmesartan this past week over concerns of increased Cr to 2.0 two
   days PTA. Cr 1.7 on admission. GFR likely significantly low at baseline
   given age and small body habitus. FENa 3.3 so prerenal component is
   unlikely. SCr continues to rise slowly post-cath likely [**2-2**] dye load.
   - Hold nephrotoxins
   - Scr stable for past 24hrs
 will continue to monitor
   - Can d/c Foley
   .
   # HYPOTHYROIDISM: TSH wnl two days PTA. Continue levothyroxine 88mcg po
   qd.
   .
   # ANEMIA: Baseline outpatient H/H [**10-31**], MCV 93. Anemia of chronic
   disease on iron studies.
   - Will continue to monitor ongoing blood loss and keep H/H above [**8-24**]
   .
   FEN: heart healthy low sodium diet. Would add Zofran prn for nausea.
   .
   ACCESS: PIV's
   .
   CODE: Presumed full
   .
   COMM: patient, daughter is involved in care.
   .
   DISPO: Can call out to [**Hospital Ward Name 383**] 3, PT consult, OOB to chair
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   Date/time of service was 10:30am.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Name (NI) **], MD
   on:[**2111-9-21**] 14:00 ------

2111-09-22 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: s/p cath
   24 Hour Events:
   Called out to [**Wardname 2704**] but no bed available. D/C'd foley. PT & social work
   consult. OOB to chair. Had BM.
   PM Hct 32.8, K 4.0, Cr 2.9.
   No complaints overnight. Denies CP, SOB, lightheadedness, nausea,
   vomiting, abd pain, dysuria.
   History obtained from Patient
   Allergies:
   Codeine
   Nausea/Vomiting
   Scopolamine Hydrobromide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2111-9-21**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-9-22**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 66 (60 - 73) bpm
   BP: 108/61(71) {93/47(63) - 148/74(85)} mmHg
   RR: 22 (11 - 24) insp/min
   SpO2: 95% on RA
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
                  Total In:
                                                                    330 mL
                  PO:
                                                                    330 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,250 mL
                                                                    400 mL
   Urine:
                                                                  1,250 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -920 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious. AAOx3
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic atraumatic. Bilateral carotid
   bruits
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, 2/6 systolic ejection murmur heard best at LUSB
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Wheezes : )
   Abd: nl BS, soft ND, mildly tender to deep palpation of RLQ
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent. Bruising along right inguinal ligament, inner thigh and
   suprapubic area. 1
 focus of induration over femoral artery. No
   bruits.
   Labs / Radiology
   135 K/uL
   10.7 g/dL
   87 mg/dL
   2.7 mg/dL
   28 mEq/L
   4.0 mEq/L
   60 mg/dL
   102 mEq/L
   138 mEq/L
   33.5 %
   8.0 K/uL
        [image002.jpg]
                             [**2111-9-18**]  11:34 PM
                             [**2111-9-19**]  04:53 AM
                             [**2111-9-19**]  12:34 PM
                             [**2111-9-19**]  06:07 PM
                             [**2111-9-20**]  05:49 AM
                             [**2111-9-20**]  06:42 PM
                             [**2111-9-21**]  04:58 AM
                             [**2111-9-21**]  05:00 PM
                             [**2111-9-22**]  05:45 AM
   WBC
   10.6
   10.7
   8.8
   8.0
   Hct
   22.3
   25.4
   27.4
   24.2
   25.1
   32.6
   32.5
   32.8
   33.5
   Plt
   [**Telephone/Fax (3) 9007**]35
   Cr
   2.0
   2.7
   3.1
   3.1
   3.1
   2.9
   2.7
   TropT
   0.02
   Glucose
   [**Telephone/Fax (2) 9008**]
   Other labs: CK / CKMB / Troponin-T:88//0.02, Differential-Neuts:89.6 %,
   Lymph:6.9 %, Mono:3.2 %, Eos:0.1 %, Ca++:8.2 mg/dL, Mg++:2.8 mg/dL,
   PO4:4.8 mg/dL
   Assessment and Plan
   88yo F hx HTN, CKI, hypothyroidism, Sjogrens presented s/p cardiac cath
   with drug eluting stent to left main with extension to LAD now with
   pelvic hematoma and renal caliceal rupture.
   .
   # CORONARIES: Anginal equivalent is intrascapular back pain with
   nausea. Precath ECG showed 1mm ST elevations in V1-2 and AVR with
   depressions in 2,3,AVL. Left main disease seen on cath and stent placed
   to LMCA extending to LAD. Post-cath ECG essentially unchaged. Post-cath
   Tn 0.02 CK 88.  No anginal equivalent since admission to CCU.
   - Aspirin 325 po qd
   - Plavix 75 po qd
   - Atorvastatin 80 po qd
   .
   # HEMATOMA: Developed as pt began sundowning and became very
   anxious/restless ~2hrs s/p cath. Ultrasound was negative for hematoma,
   but induration and brusing along the inguinal ligament and suprapubic
   area developed afterwards. CT abd/pelvis showed 10x7cm pelvic fluid
   collection. Hematoma also possibly compressing R ureter causing
   hydronephrosis and possible calyceal rupture. Hct dropped from 31 two
   days PTA to 23.  Pt received 4uPRBC and Hct has increased and
   stabilized.
   - Vascular on board
 no intervention indicated
   - Urology on board
 recommended MAG3 Renal scan to evaluate function
   of non-obstructed kidney
   - Hct stable
 will f/u H/H q24
   .
   # ACUTE ON CHRONIC KIDNEY INJURY: Baseline Cr 1yr ago was 1.3. Pt was
   advised to stop Olmesartan this past week over concerns of increased Cr
   to 2.0 two days PTA. Cr 1.7 on admission. FENa 3.3 so prerenal
   component is unlikely. Cr increased since admission likely [**2-2**]
   obstruction of right kidney & dye load. Cr currently trending down.
   - Hold nephrotoxins
   .
   # DELIRIUM: History of sundowning on previous hospital admissions.
   Given benzos on day of admission and mental status deteriorated.
   Pulled out some IVs and foley catheter. Will continue treating
   underlying conditions. Would stay away from benzos and use Haldol or
   Seroquel / Trazodone qpm. Use restraints as needed.
   - No recurrence overnight
   .
   # PUMP: No previous caths or echos. No history or symptoms of previous
   HF. Pt appears euvolemic. Echo showed mild diastolic dysfunction but
   EF>55%. Will hold off on fluid boluses and give Lasix prior to future
   PRBC.
   - On Carvedilol 6.25 po bid
   - Will hold off on ACE/[**Last Name (un) **] given rising creatinine as outpatient
 will
   start when renal function improves
   .
   # HYPERTENSION: On Atenolol at home.
   - Amlodipine 5 po qd
   - Carvedilol 6.25 po bid
   .
   # HYPOTHYROIDISM: TSH wnl two days PTA. Continue levothyroxine 88mcg po
   qd.
   .
   # ANEMIA: Baseline outpatient H/H [**10-31**], MCV 93. Anemia of chronic
   disease on iron studies.
   - Will continue to monitor ongoing blood loss and keep H/H above [**8-24**]
   .
   FEN: heart healthy low sodium diet. Would add Zofran prn for nausea.
   .
   ACCESS: PIV's
   .
   CODE: Presumed full
   .
   COMM: patient, daughter is involved in care.
   .
   DISPO: Called out to [**Hospital Ward Name 383**] 3, PT consult, OOB to chair